US07750154B2
N-Cyclopropyl-3-[6-[2-(dimethylamino)ethoxy]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide (AZ12260955)
N-Cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3 (4H)-yl)-4-methylbenzamide (0.15 g), 2-dimethylaminoethyl chloride hydrochloride (0.084 g), potassium carbonate (0.62 g), and sodium iodide (0.007 g) were stirred in acetone (9 ml) at 60° C. for 18 hours. The reaction mixture was filtered, the solids washed with acetone, and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with 2N NaOH solution, brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 10% methanol/ethyl acetate+1% aqueous ammonia solution gave the title compound (0.159 g) as a white solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.70 (m, 2H), 2.13 (s, 3H), 2.23 (s, 6H), 2.68 (t, 2H), 2.85 (m, 1H), 4.19 (t, 2H), 7.52 (m, 2H), 7.60 (s, 1H), 7.72 (d, 1H), 7.83 (s, 1H), 7.91 (d, 1H), 8.19 (s, 1H), 8.42 (d, 1H); Mass Spectrum: M+H+ 407.

reactant | N-Cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3 (4H)-yl)-4-methylbenzamide | 0.15 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)O)=O | C19H17N3O3
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.084 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.007 g | [I-].[Na+]
solvent | acetone | 9 ml | CC(=O)C | C3H6O
product | N-Cyclopropyl-3-[6-[2-(dimethylamino)ethoxy]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide | 0.159 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCCN(C)C)=O | C23H26N4O3
